US04999378
(1) Methyl 4-[3-[N-[3-(4-chlorophenylcarbamoyl)propionyl]-N-(4-chlorophenyl)amino]propoxy]benzoate
Methyl 4-[3-[N-(3-carboxypropionyl)-N-(4-chlorophenyl)amino]propoxy]benzoate (1.6 g), p-chloroaniline (0.54 g), DCC (0.87 g) and 4-dimethylaminopyridine (47 mg) were dissolved in methylene chloride (40 ml), and the mixture was stirred at room temperature for 52 hours, and concentrated under reduced pressure. The residue was dissolved in a small amount of DMF, and filtered. To this filtrate were added water and ethyl acetate and it was separated into layers. The organic layer was washed with water 3 times and concentrated under reduced pressure. The oily product thus obtained was subjected to column chromatography on silica gel and eluted with a mixed solvent of chloroform/methanol [30:1 (v/v)], and then concentrated under reduced pressure. The residue was crushed in aqueous methanol and collected by filtration to give the subject product (1.70 g). mp. 128°-130° C.

reactant | Methyl 4-[3-[N-(3-carboxypropionyl)-N-(4-chlorophenyl)amino]propoxy]benzoate | 1.6 g | C(=O)(O)CCC(=O)N(C1=CC=C(C=C1)Cl)CCCOC1=CC=C(C(=O)OC)C=C1 | C21H22ClNO6
reactant | p-chloroaniline | 0.54 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | DCC | 0.87 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | 4-dimethylaminopyridine | 47 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | Methyl 4-[3-[N-[3-(4-chlorophenylcarbamoyl)propionyl]-N-(4-chlorophenyl)amino]propoxy]benzoate | 1.70 g | ClC1=CC=C(C=C1)NC(=O)CCC(=O)N(C1=CC=C(C=C1)Cl)CCCOC1=CC=C(C(=O)OC)C=C1 | C27H26Cl2N2O5
